datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N:10]=[C:11]2[N:12](C1)CCC[NH:62]2.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C1C[N:10]([Cl:20])[C:11]2=[N+:12](C1)CCC[NH:62]2.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C:11]([CH2:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64]>>CC[O:33][C:22](=[N:21][N:20]([CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C)=[O:64])[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1)[CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH:10](C1=CC=CC=C1)[CH:11]=[N+:12]1CCC[C@H]1C(O[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH:10](Br)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[O-:23] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)(C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([C+:11]([CH2:10][CH:20]([C:21]4=[CH:22][N:23](C)C5=CC=CC=C54)[C:31]4=[CH:32][C:33]5=[C:34]6N(CCC5)CCC[C:35]6=[CH:36]4)[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[C:11]=[N-:12])[CH:84]=[CH:85]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64].C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12;20,21=21"
CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=CC=C2)[C:72](=[O:73])[O:83]1.CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1>>CC1=CC(C)=C(C(C)C[CH:20]([C:10]2(CC3=CC=CC=C3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCC[C:11]2=[N+:12]2CCCCC2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC(C)(C)[C:11]([CH2:10][F:20])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
